data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1=CC=C(C=C1)S(=O)(=O)N(C)CCC23C4C=CC(C2OC5=C3C(=CC=C5OC)C=C4)O[I:10]6(C7=C(C=CC=C7)C(=O)O6)(OC(=O)C)[O:11]C(=O)C.CC(=O)O>>CC1=CC=C(C=C1)S(=O)(=O)N(C)CCC23C4C=CC(C2OC5=C3C(=CC=C5OC)C=C4)O[I+:10]6(C7=C(C=CC=C7)C(=O)O6)OC(=O)C.CC(=O)[O-:11].CC(=O)O 10,11=11
CC1(C2=C(C=C(C(=C2)N3CC[N:10](CC3)[C:20]4(COC4)[OH2+:21])Br)C(=O)C5=C1NC6=CC=CC=C65)C.[BH3-]C#N.CC(=O)[O-].CO>>CC1(C2=C(C=C(C(=C2)N3CC[N+:10](=[C:20]4COC4)CC3)Br)C(=O)C5=C1NC6=CC=CC=C65)C.[OH2:21].[BH3-]C#N.CC(=O)[O-].CO 10=20;20,21=21
C[CH:20]=[O:21].C1=C(C=C(C(=C1)O)O)CC[NH2:10]>>C[CH:20]([NH2+:10]CCC1=CC=C(C(=C1)O)O)[O-:21] 10=20;20,21=21
[H:20][C:21]([C:22](=[O:23])C(C)Br)(Br)Br.[OH-:10]>>[H:20][OH:10].CC([C:22](=[C:21](Br)Br)[O-:23])Br 10=20;22,23=23;20,21=21,22
[H:20][O:21]C1C(C[C:10](=[C:11]([O-:12])OC)CCC1C(=O)OC)C>>[H:20][C:10]1(CCC(C(C(C1)C)[O-:21])C(=O)OC)[C:11](=[O:12])OC 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CC(C)C(C)CCC)COCCC1CCCC1.CCCC(C)C(C)C[OH:10].[Cl-]>>[H:20][OH+:10]CC(C)C(C)CCC.CCCC(C)C(C)C[O:21]COCCC1CCCC1.[Cl-] 10=20;20,21=21
CO[C:20]1(OCCC[O:21]1)[O-:10]>>CO[C:20](=[O:10])OCCC[O-:21] 10=20;20,21=21
[H:20][O+:21](CC=CCC(=O)OCC)C(=O)CC1=CC=CC=C1.C1CCC(CC1)NC(=O)[N-:10]C2CCCCC2.C1CCN(C1)C2=CC=NC=C2>>[H:20][N:10](C1CCCCC1)C(=O)NC2CCCCC2.CCOC(=O)CC=CC[O:21]C(=O)CC1=CC=CC=C1.C1CCN(C1)C2=CC=NC=C2 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1(CCCC1)[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C1(CCCC1)C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[OH-:10].O[P+:20](O)(O)Cl>>O[P:20](O)(O)([OH:10])Cl 10=20,
C[C:20]([CH:10]=[C:11](C1=CC=C(C=C1)I)[O-:12])(C2=CC=C(C=C2)I)[OH:21]>>C[C:20](=[CH:10][C:11](=[O:12])C1=CC=C(C=C1)I)C2=CC=C(C=C2)I.[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][Br:21].C1CCC2C(C1)[O:10]2>>[H:20][O+:10]1C2C1CCCC2.[Br-:21] 10=20;20,21=21
[H:20][OH:21].C1CCC2(CC(=O)CCC2C1)[O-:10]>>[H:20][O:10]C12CCCCC1CCC(=O)C2.[OH-:21] 10=20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)C#N)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]OC(=C1)C#N 10=20;20,21=21,22
C[O:10]C.Cl[Ti:20](Cl)(Cl)Cl>>C[O+:10](C)[Ti-:20](Cl)(Cl)(Cl)Cl 10=20,
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCO[C:20](C)([O-:10])[O:21]C(=O)C>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCO[C:20](=[O:10])C.CC(=O)[O-:21] 10=20;20,21=21
C[C+:20](C)CCCC[CH:10]=[C:11]=C[Si](C)(C)C>>C[C:20]1(CCCC[CH:10]1[C+:11]=C[Si](C)(C)C)C 10,11=10,20
[H:20][O:21]S(=O)(=O)O.C=[O:10]>>[H:20][O+:10]=C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC[O:10]C1CCCCO1>>[H:20][O+:10](CC)C1CCCCO1.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21]1[C:22](=[O+:23]C)CC2C(C1=O)(CCC(C2(C(=O)OCC)C(=O)OCC)C)C#N.CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].[OH2:10]>>[H:20][OH2+:10].CCO.CCOC(=O)C1(C(CCC2(C1C[C:22](=[CH:21]C2=O)[O:23]C)C#N)C)C(=O)OCC.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21,22;22,23=23
C[C:20](C)([Cl:10])[Br:21]>>C[C:20](=[Cl+:10])C.[Br-:21] 10=20;20,21=21
C1CC([NH:10]C1)C2=NN=NN2.C1=CC(=CC=C1[CH:20]=[O:21])[N+](=O)[O-].CCCCC(=O)C1=C(C=CC(=C1)Br)O.C(=O)(C(F)(F)F)O>>C1CC([NH+:10](C1)[CH:20](C2=CC=C(C=C2)[N+](=O)[O-])[O-:21])C3=NN=NN3.CCCCC(=O)C1=C(C=CC(=C1)Br)O.C(=O)(C(F)(F)F)O 10=20;20,21=21
[H:20][O:21]C(CC)C1=CC=CC=C1.[H:10][Na:11]>>CCC(C1=CC=CC=C1)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[Li][Cu:11](CC=C)[CH2:10]C=C.CC1[CH2:20][O:21]1>>[Li][Cu+:11]CC=C.CC([CH2:20][CH2:10]C=C)[O-:21] 10,11=10,20;20,21=21
C[CH2:10][C:11](=[N:20][O:21][CH:22]=[N+:23](C)C)C.[Cl-]>>C[CH2:10][N:20]=[C+:11]C.C[N:23](C)[CH:22]=[O:21].[Cl-] 10,11=10,20;22,23=23;20,21=21,22
[H:20][OH+:21]C(C)(NCC)O.[OH2:10]>>CCNC(C)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
[H:20][CH:21]1[C:22](=[OH+:23])C2=C(N1)C=CC=C2.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C1=CC2=C(C=C1)N[CH:21]=[C:22]2[OH:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C1=CC(=O)CC(C1)(C)C.CC[N:10](CC)CC.CC(=O)Cl>>[H:20][N+:10](CC)(CC)CC.CC1(CC(=CC(=O)C1)[O-:21])C.CC(=O)Cl 10=20;20,21=21
CCO[C+:20](C(CCC1=CC=CC=C1)O[Al-:11](C)(C)[CH3:10])C(C(F)(F)F)(F)F>>CCO[C:20]([CH3:10])(C(CCC1=CC=CC=C1)O[Al:11](C)C)C(C(F)(F)F)(F)F 10,11=10,20
CC(=O)[OH:10].C(F)(F)(F)S(=O)(=O)O[S:20](=O)(=[O:21])C(F)(F)F>>CC(=O)[OH+:10][S:20](=O)(C(F)(F)F)([O-:21])OS(=O)(=O)C(F)(F)F 10=20;20,21=21
CN(C)C1=CC=[N:10]C=C1.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>CN(C)C1=CC=[N+:10](C=C1)[CH2:20]C2=CC=C(C=C2)C#N.[Br-:21] 10=20;20,21=21
[Li+:20].CCC(C)[O-:10]>>[Li:20][O:10]C(C)CC 10=20,
C[O:21][OH:20].[SH2:10]>>C[O-:21].[OH:20][SH2+:10] 10=20;20,21=21
[B:20](F)(F)F.CC(C)(C)[O:10]N=O.CC#N.C1=CC=C(C=C1)C#CC2=C(C=CC=C2)N>>[B-:20]([O+:10](C(C)(C)C)N=O)(F)(F)F.CC#N.C1=CC=C(C=C1)C#CC2=C(C=CC=C2)N 10=20,
[B-:11](C1CCCCC1)([CH:10]2CCCCC2)(OC(C(C)C(=O)C(C)COCC3=CC=CC=C3)C(=CCC)C)[O:20][OH:21]>>[B:11](C1CCCCC1)([O:20][CH:10]2CCCCC2)OC(C(C)C(=O)C(C)COCC3=CC=CC=C3)C(=CCC)C.[OH-:21] 10,11=10,20;20,21=21
[CH:11]1=[CH:10]OC=C1C(F)(F)F.[Br:20][Br:21]>>C1=C([CH+:11][CH:10](O1)[Br:20])C(F)(F)F.[Br-:21] 10,11=10,20;20,21=21
CC(C1=CC=CC=C1)OC(CCC2=CC=CC=C2)[O+]([Si](C)(C)C)[Si-:10](C)(C)(C)[O:11]S(=O)(=O)C(F)(F)F.C[Si](C)(C)OC(=C)C1=CC=CC=C1>>C(F)(F)(F)S(=O)(=O)[O-:11].CC(C1=CC=CC=C1)OC(CCC2=CC=CC=C2)[O+]([Si:10](C)(C)C)[Si](C)(C)C.C[Si](C)(C)OC(=C)C1=CC=CC=C1 10,11=11
